US05726175
51.2 g of ammonium acetate are added in small portions to a solution of 2 g of diethyl 1-(1-oxoindan-2-yl)imidazole-2,4-dicarboxylate in 80 ml of acetic acid and the mixture is heated to reflux for 2 hours. After cooling to a temperature close to 20° C. the precipitate formed is filtered off and rinsed with distilled water and then with methyl ethyl ketone (2×10 ml) to give 0.65 g of ethyl 4,5-dihydro-4-oxo-10H-imidazol[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate in the form of a beige solid melting above 260° C. (analysis % calculated C: 65.08, H: 4.44, N: 14.23; % found C: 65.2, H: 4.3, N: 13.8).

reactant | ammonium acetate | 51.2 g | C(C)(=O)[O-].[NH4+]
reactant | diethyl 1-(1-oxoindan-2-yl)imidazole-2,4-dicarboxylate | 2 g | O=C1C(CC2=CC=CC=C12)N1C(=NC(=C1)C(=O)OCC)C(=O)OCC | C18H18N2O5
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | ethyl 4,5-dihydro-4-oxo-10H-imidazol[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 0.65 g | O=C1C=2N(C3=C(N1)C=1C=CC=CC1C3)C=C(N2)C(=O)OCC | C16H13N3O3
